US05834506
N-{4-[2-(4-Hydroxy-6-oxo-2-phenyl-3,6-dihydro-2H-pyran-2-yl)-ethyl]-phenyl}-acetamide
Methyl acetoacetate (4.5 mL, 41.7 mmol) was added dropwise to a slurry of 60% sodium hydride (1.75 g, 43.7 mmol) in THF (135 mL) at 0° C. After stirring 15 minutes, n-butyllithium (21 mL of 2.1M, 44.1 mmol) was added and the reaction stirred an additional 15 minutes at 0° C. N-[4-(3-Oxo-3-phenyl-propyl)-phenyl]-acetamide, prepared in Example Y (5.3 g, 19.8 mmol) in THF (15 mL) was added in one portion and the reaction allowed to warm to room temperature over 4 hours. H2O was added and the reaction allowed to stir overnight. The mixture was extracted with Et2O and the aqueous layer acidified with 1N HCl. The precipitate was filtered, then washed with EtOAc to give the title compound, m.p. 155°-160° C. 1H NMR (DMSO-d6) δ 2.0 (s, 3 H), 2.17 (m, 2 H), 2.50 (m, 2 H), 3.02 (dd, 2 H), 4.88 (s, 1 H), 6.99 (d, 2 H), 7.25-7.50 (m, 7 H), 9.81 (s, 1 H), 11.50 (s, 1 H).

reactant | Methyl acetoacetate | 41.7 mmol, 4.5 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 43.7 mmol, 1.75 g | [H-].[Na+]
reactant | n-butyllithium | 44.1 mmol, 2.1M, 21 mL | C(CCC)[Li]
reactant | N-[4-(3-Oxo-3-phenyl-propyl)-phenyl]-acetamide | O=C(CCC1=CC=C(C=C1)NC(C)=O)C1=CC=CC=C1 | C17H17NO2
solvent | THF | 135 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-{4-[2-(4-Hydroxy-6-oxo-2-phenyl-3,6-dihydro-2H-pyran-2-yl)-ethyl]-phenyl}-acetamide | OC=1CC(OC(C1)=O)(C1=CC=CC=C1)CCC1=CC=C(C=C1)NC(C)=O | C21H21NO4
